US07517873B2
To a solution of 11.5 g (0.075 mole) of beta-alanine ethyl ester hydrochloride and 6.3 g (0.073 mole) of cyclopentanone in 200 mL of dichloromethane was added 6.5 g (0.082 mole) of sodium acetate and 22.5 g (0.107 mole) of sodium triacetoxyborohydride. The mixture was stirred 24 hours and then quenched by the addition of 200 mL of saturated sodium bicarbonate solution. After 20 minutes, the organic layer was separated and the aqueous layer was extracted twice with dichloromethane. The combined dichloromethane layers were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to provide 12.0 g of 3-cyclopentylamino-propanoic acid ethyl ester, which was used without further purification.

reactant | beta-alanine ethyl ester hydrochloride | 0.075 mole, 11.5 g | Cl.C(C)OC(CCN)=O
reactant | cyclopentanone | 0.073 mole, 6.3 g | C1(CCCC1)=O | C5H8O
reactant | sodium acetate | 0.082 mole, 6.5 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.107 mole, 22.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-cyclopentylamino-propanoic acid ethyl ester | 12.0 g | C(C)OC(CCNC1CCCC1)=O | C10H19NO2
